US07576135B2
2,2-dichloro-N-(5-chloropyrimidin-2-yl)acetamide
To 2-amino-5-chloropyrimidine (1.30 g) dissolved in N,N-dimethylformamide (30 mL), dichloroacetyl chloride (1.44 mL) and sodium hydrogencarbonate (1.26 g) were added, and the resultant mixture was stirred at room temperature for 1 hour. The solvent was distilled away under reduced pressure. Methylene chloride and water were added to the residue for partitioning the mixture. The aqueous layer was extracted with methylene chloride. The organic layers were combined, and the resultant mixture was washed with water, followed by drying over sodium sulfate anhydrate. The solvent was distilled away under reduced pressure. The residue was purified by silica gel flash column chromatography (hexane ethyl acetate=1:1). The resultant white solid was slurry-washed with a solvent mixture of hexane-diethyl ether (4:1), followed by filtration to recover, to thereby give the title compound (1.24 g) as a white solid.

reactant | 2-amino-5-chloropyrimidine | 1.30 g | NC1=NC=C(C=N1)Cl | C4H4ClN3
reactant | dichloroacetyl chloride | 1.44 mL | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | sodium hydrogencarbonate | 1.26 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2,2-dichloro-N-(5-chloropyrimidin-2-yl)acetamide | 1.24 g | ClC(C(=O)NC1=NC=C(C=N1)Cl)Cl | C6H4Cl3N3O
